### PR TITLE
Erdős Problem 172

### LINKED ISSUE #402: Erdős Problem 172
### What is the conjecture
    
https://www.erdosproblems.com/172

  Is it true that in any finite colouring of $\mathbb{N}$ there exist arbitrarily large finite $A$ such that all sums and products of distinct elements in $A$ are the same colour?

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by YunusM235**
Fixes #402

### CODE REVIEW

File: FormalConjectures/ErdosProblems/172.lean [hunk 1]
```diff
@@ -0,0 +1,38 @@
...
+# Erdős Problem 172
+
+*Reference:* [erdosproblems.com/172](https://www.erdosproblems.com/172)
+-/
+
+namespace Erdos172
+
+/--
+For any finite coloring of ℕ there exist arbitrarily large finite A such that all sums
+and products of distinct elements in A have the same color.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/172.lean]:
```suggestion
Is it true that in any finite colouring of $\mathbb{N}$ there exist arbitrarily large finite $A$ such that all sums
and products of distinct elements in $A$ are the same colour?
```

Latex markdown and closer to original formulation.

File: FormalConjectures/ErdosProblems/172.lean [hunk 2]
```diff
@@ -0,0 +1,38 @@
...
+-/
+@[category research open, AMS 5]
+theorem erdos_172 :
+    ∀ (n : ℕ), ∀ (color : ℕ → Fin n), ∀ (m : ℕ),
+    ∃ (A : Finset ℕ), A.card=m ∧ ∃ (c : Fin n), ∀ (S : Finset ℕ),
+    (S.card ≠ 0 ∧ S⊆A) → (color (∑ x∈S, x) = c ∧ color (∏ x∈S, x) = c) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/172.lean]:
```suggestion
    ∀ (n : ℕ), ∀ (color : ℕ → Fin n), ∀ m, ∃ (A : Finset ℕ), A.card = m ∧ ∃ c, ∀ (S : Finset A),
    S.Nonempty → color (∑ x ∈ S, x) = c ∧ color (∏ x ∈ S, x) = c := by
```

Comment (mo271) [reply FormalConjectures/ErdosProblems/172.lean]: Only some suggestion to make it a bit more pretty: 
 - It might be more elegant to change the type of `S` to `Finset A`.
 - Also `Nonempty` seems more idiomatic than requiring that it contains more than zero elements.
 - some more space
- some less parentheses and explicit type description when it is easy to infer it. 

With `open Finset` one could even write `#A` instead of `A.card`, but I don't have a strong opinion if this is really an improvement.

File: FormalConjectures/ErdosProblems/172.lean [hunk 3]
```diff
@@ -0,0 +1,38 @@
...
+    sorry
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/172.lean]:
```suggestion
    sorry

-- TODO: add the statements from the additional material
```

File: FormalConjectures/ErdosProblems/172.lean [hunk 4]
```diff
@@ -0,0 +1,38 @@
...
+/--
+For any finite coloring of ℕ there exist arbitrarily large finite A such that all sums
+and products of distinct elements in A have the same color.
+-/
+@[category research open, AMS 5]
+theorem erdos_172 :
+    ∀ (n : ℕ), ∀ (color : ℕ → Fin n), ∀ (m : ℕ),
+    ∃ (A : Finset ℕ), A.card=m ∧ ∃ (c : Fin n), ∀ (S : Finset ℕ),
+    (S.card ≠ 0 ∧ S⊆A) → (color (∑ x∈S, x) = c ∧ color (∏ x∈S, x) = c) := by
+    sorry
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/172.lean]: One small remark: I would tend to read this as saying that for all natural numbers `n` , there exists a finset of cardinality greater than `m` that satisfies the property. This is weaker than your statement, since it does not require the existence of a set for *every* cardinality.

Comment (YunusM235) [reply FormalConjectures/ErdosProblems/172.lean]: Thanks, I updated the statement.

**Comment by YunusM235** [comment]
Thanks for the review, I added all the suggested changes.

File: FormalConjectures/ErdosProblems/172.lean [hunk 5]
```diff
@@ -0,0 +1,38 @@
...
+
+/--
+Is it true that in any finite colouring of $\mathbb{N}$ there exist arbitrarily large finite $A$ such that all sums
+and products of distinct elements in $A$ are the same colour?
+-/
+@[category research open, AMS 5]
+theorem erdos_172 :
+    ∀ (n : ℕ), ∀ (color : ℕ → Fin n), ∀ m, ∃ (A : Finset ℕ), A.card = m ∧ ∃ c, ∀ (S : Finset A),
+    S.Nonempty → color (∑ x ∈ S, x) = c ∧ color (∏ x ∈ S, x) = c := by
+    sorry
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/172.lean]:
```suggestion
@[category research open, AMS 5]
theorem erdos_172 :
    (∀ (n : ℕ) (color : ℕ → Fin n) (m), ∃ (A : Finset ℕ), A.card ≥ m ∧ ∃ c, ∀ (S : Finset A),
    S.Nonempty → color (∑ x ∈ S, x) = c ∧ color (∏ x ∈ S, x) = c) ↔answer(sorry) := by
  sorry
```

**Review by Paul-Lez — APPROVED** [review]
